US07396958B2
(2-amino-5-fluorophenyl)-(2-chlorophenyl)methanol
To 0.5 g of (2-nitro-5-fluorophenyl)(2-chlorophenyl)methanone dissolved in 10 ml of ethanol are added 0.44 g of tin and 1.5 ml of 12M hydrochloric acid, and the mixture is left for 3 hours at room temperature. The reaction medium is concentrated and the residue is taken up in ethyl acetate and washed with 2M sodium hydroxide solution and then with saturated ammonium chloride solution. The organic phase is dried over anhydrous sodium sulfate and concentrated to give 0.453 g of the expected product.

reactant | (2-nitro-5-fluorophenyl)(2-chlorophenyl)methanone | 0.5 g | [N+](=O)([O-])C1=C(C=C(C=C1)F)C(=O)C1=C(C=CC=C1)Cl | C13H7ClFNO3
reactant | tin | 0.44 g | [Sn] | Sn
reactant | hydrochloric acid | 12M, 1.5 ml | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | (2-amino-5-fluorophenyl)-(2-chlorophenyl)methanol | 0.453 g | NC1=C(C=C(C=C1)F)C(O)C1=C(C=CC=C1)Cl | C13H11ClFNO
